US07964608B2
To a solution of a 4-amino-quinoline-3-carboxylic acid ethyl ester derivative (0.50 mmol) in 10 mL anhydrous DMF is added sodium hydride (4 eq., 2.0 mmol) and stirred at room temperature for 30 min. To this solution an isocyanate or isothiocyanate (1.5-4 eq. 2.0 mmol) is added. The resulting reaction mixture is stirred for 18 h at room temperature or at 100° C. After completion of the reaction, the mixture is poured into water (20 mL) and extracted with ethyl acetate (2×25 mL). The organic extracts are combined, washed with water (2×25 mL), brine (2×25 mL), dried over Na2SO4 and concentrated in vacuo to give the crude product. The residue is then purified by silica gel chromatography using dichloromethane-ethyl acetate to provide desired 1H-pyrimido[5,4-c]quinoline-2,4-dione or thio-ketone derivative.

reactant | 4-amino-quinoline-3-carboxylic acid ethyl ester | 0.50 mmol | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1N | C12H12N2O2
reactant | sodium hydride | 2.0 mmol, 4 eq. | [H-].[Na+]
reactant | isocyanate | [N-]=C=O
reactant | isothiocyanate | 2.0 mmol, 1.5-4 eq | [N-]=C=S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1H-pyrimido[5,4-c]quinoline-2,4-dione | N1C(NC(C=2C=NC=3C=CC=CC3C21)=O)=O | C11H7N3O2
